US07674741B2
2-Benzyl-butyrolactone
A solution of diisopropylamine (63.0 mL) in THF was treated dropwise with butyl lithium (268 mL of 1.6M solution in hexanes) at −10° C. Upon completion of the addition, the reaction mixture was cooled to −70° C. and then treated dropwise with γ-butyrolactone (33.0 mL) keeping the speed of the addition at such a rate that the temperature of the mixture remained below −60° C. After stirring for additional 30 min at −70° C., the mixture was treated dropwise with benzyl bromide (51.0 mL) again keeping the speed of the addition at such a rate that the temperature of the mixture remained below −60° C. After completion of the addition, the stirring of the reaction mixture was continued at −70° C. for 2 h. Then the mixture was warmed-up to 0° C. and quenched by addition of a small amount of water. The solvents were removed in vacuum and the residue was redissolved in dichloromethane, washed with 10% aqueous hydrochloric acid, then with water, dried over magnesium sulfate, filtered, concentrated on a rotary evaporator and distilled in vacuum to give 26.0 g (34%) of the title compound.

reactant | diisopropylamine | 63.0 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | 1.6M, 268 mL | C(CCC)[Li]
reactant | γ-butyrolactone | 33.0 mL | C1(CCCO1)=O | C4H6O2
reactant | benzyl bromide | 51.0 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | C1CCOC1 | C4H8O
product | 2-Benzyl-butyrolactone | 26.0 g, 34% | C(C1=CC=CC=C1)C1C(=O)OCC1 | C11H12O2
